US04612318
4-(1,2,5,6-tetrahydro-1-methyl-4-pyridinyl)-1,3-dimethyl 5-(1H)-pyrazolamine
1-Methyl-4-pyridinone (1.1 mole) is added to 1,3-dimethyl-5-pyrazolamine (1 mole). The reaction mixture is kept at a temperature between 70° C. and 80° C. for a period of about 8 hours. After distillation under vacuum the residue is poured into water and neutralized with NaOH 10%. The compound of the title is recovered by filtration. M.p. 262°-265° C.

reactant | 1-Methyl-4-pyridinone | 1.1 mole | CN1C=CC(C=C1)=O | C6H7NO
reactant | 1,3-dimethyl-5-pyrazolamine | 1 mole | CN1N=C(C=C1N)C | C5H9N3
product | 4-(1,2,5,6-tetrahydro-1-methyl-4-pyridinyl)-1,3-dimethyl 5-(1H)-pyrazolamine | CN1CC=C(CC1)C=1C(=NN(C1N)C)C | C11H18N4
